US05668291
2,2'-Dithiobis[N-(3-iodophenyl)benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (3.00 g, 8.74 mmol) in 75 mL of dichloromethane and 3-iodoaniline (3.82 g, 17.5 mmol) in 17 mL of pyridine. The crude product was triturated with hot ethanol, filtered, and recrystallized first from water-DMF, then from ethyl acetate-ether to yield 0.45 g of the title compound, mp 184°-186° C. (dec.).

reactant | 2,2'-dithiobisbenzoyl chloride | 8.74 mmol, 3.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 3-iodoaniline | 17.5 mmol, 3.82 g | IC=1C=C(N)C=CC1 | C6H6IN
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | pyridine | 17 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-(3-iodophenyl)benzamide] | 0.45 g | IC=1C=C(C=CC1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC(=CC=C2)I)C=CC=C1)=O | C26H18I2N2O2S2
